US08227635B2
Preparation of 4-ethyl-2-phenyloctan-2-ol
2-Methyl-2-phenyl-1,3-dioxolane (0.25 g, 1.5 mmol), sodium dodecyl sulfate (0.1 g, 0.35 mmol) and a stir bar were added to the inside of a PDMS thimble. p-Toluene sulfonic acid monohydrate (72.4 mg, 0.38 mmol) dissolved in 2 mL water was added to the inside of the PDMS thimble followed by 1 mL of hexanes. The reaction was stirred at 25° C. for 4 hours. Hexanes (2.5 mL) was added to the outside of the PDMS thimble followed by 12 mL of 1 M 2-ethylhexyl-magnesiumbromide (2.6 g, 12 mmol). The reaction was stirred for an additional 12 hours after which 5 mL water was added. The PDMS thimble was swelled with 20 mL hexanes and 2×20 mL diethyl ether. The organics were combined and dried over MgSO4. The product was purified by column chromatography, eluting with 100% hexanes to yield a colorless oil (0.28 g, 80% yield). 1H NMR (CDCl3): δ 0.68-0.86 (m, 6H), 1.08-1.29 (m, 9H), 1.57 (s, 3H), 1.63 (s, 1H), 1.70-1.75 (m, 2H), 7.19-7.46 (m, 5H). 13C NMR (CDCl3): δ 10.43, 10.49, 14.00, 14.05, 22.86, 22.95, 26.95, 27.12, 28.48, 28.61, 30.45, 30.72, 33.82, 34.04, 34.62, 34.68, 47.99, 48.01, 75.07, 75.09, 124.82. 124.84, 126.27, 126.31, 127.88, 148.32, 148.38. HRMS: Calculated for C16H26O: 234.1984.

reactant | 2-Methyl-2-phenyl-1,3-dioxolane | 1.5 mmol, 0.25 g | CC1(OCCO1)C1=CC=CC=C1 | C10H12O2
reactant | sodium dodecyl sulfate | 0.35 mmol, 0.1 g | S(=O)(=O)(OCCCCCCCCCCCC)[O-].[Na+]
reactant | p-Toluene sulfonic acid monohydrate | 0.38 mmol, 72.4 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 2-ethylhexyl-magnesiumbromide | 12 mmol, 1 M, 12 mL, 2.6 g | C(C)C(C[Mg]Br)CCCC
solvent | water | 2 mL | O | H2O
solvent | water | 5 mL | O | H2O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 4-ethyl-2-phenyloctan-2-ol | 0.28 g, 80% yield | C(C)C(CC(C)(O)C1=CC=CC=C1)CCCC | C16H26O
